US08012966B2
2-(7-Bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-fluoro-7-bromo-1,3-dihydro-indol-2-one as starting materials to give 2-(7-bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (57 mg, 87.0%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 5-fluoro-7-bromo-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=C(C1)Br)=O | C8H5BrFNO
product | 2-(7-bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 57 mg, 87.0% | BrC=1C=C(C=C2C(C(NC12)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCCC1)=O)C)F | C24H26BrFN4O2
